US07858640B2
8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol
A mixture of 3-amino-4-chlorophenol (2.2 g), 3-(4-chlorobenzyl)pentane-2,4-dione (3.4 g) and toluene-4-sulfonic acid (few crystals) was heated at 170° C. under nitrogen for 10 hours. The mixture was cooled to room temperature and purification by column chromatography on silica gel, eluting with a mixture of methanol and dichloromethane (1:19 by volume), followed by trituration with diethyl ether gave title compound as a pale brown solid, 0.41 g.

reactant | 3-amino-4-chlorophenol | 2.2 g | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 3-(4-chlorobenzyl)pentane-2,4-dione | 3.4 g | ClC1=CC=C(CC(C(C)=O)C(C)=O)C=C1 | C12H13ClO2
reactant | toluene-4-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-ol | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)O | C18H15Cl2NO
